US04788206
As described in Example 99, (E,E)-5-(4-methoxyphenyl)-2,4-hexadienoic acid methyl ester (6.8 g) was saponified in a refluxing mixture of methanol (30 mL) and 2N NaOH (30 mL). After 2.5 hours the reaction was worked up in the normal manner to give 6.1 g of (E,E)-5-(4-methoxyphenyl)-2,4-hexadienoic acid. Crystallization of a portion from 2-propanol furnished the analytical sample, mp 174°-177° C.

reactant | (E,E)-5-(4-methoxyphenyl)-2,4-hexadienoic acid methyl ester | 6.8 g | COC(\C=C\C=C(/C)\C1=CC=C(C=C1)OC)=O | C14H16O3
reactant | NaOH | 2N, 30 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | (E,E)-5-(4-methoxyphenyl)-2,4-hexadienoic acid | 6.1 g | COC1=CC=C(C=C1)/C(=C/C=C/C(=O)O)/C | C13H14O3
